US06693123B2
A solution in THF (5 mL) of [4-(3-pyridyloxymethyl)-2-phenylbenzoyl]methionine (143 mg, 0.32 mmol), prepared as in Example 235, and carbonyldiimidazole (136 mg, 0.84 mmol) was stirred overnight at 45-50° C. A 1.6 mL aliquot of the reaction mixture was removed and to it was added methanesulfonamide (78 mg, 0.82 mmol) and DBU (0.12 mL, 0.80 mmol) and the mixture was stirred overnight at ambient temperature. The reaction mixture was partitioned between ethty acetate and pH 4 water. The organic phase was washed with water and brine, dried over sodium sulfate, filtered and concentrated in vacuo. Chromatographyl on silica gel (98.5:1.5:0.5 chloroform-methanol-acetic acid) gave [4-(3-pyridyloxymethyl)-2-phenylbenzoyl]methionine methylsulfonyl amide. (31 mg after azeotroping and lyophilization). 1H NMR (300 MHz, DMSO-d6) δ 8.62 (d, 1H), 8.39 (d, 1H), 8.18 (d, 1H), 7.50 (m, 4H), 7.36 (m, 6H), 5.28 (s, 2H), 4.27 (m, 1H), 3.21 (s, 3H), 2.20 (t, 2H), 2.02 (s, 3H), 1.81 (m, 2H). MS (APCI) m/e 514 (M+H)+. Anal calcd for C25H27N3O3S2.1.25H2O: C, 56.01; H, 5.55; N, 7.84. Found: C, 55.72; H, 5.08; N, 8.18.

reactant | [4-(3-pyridyloxymethyl)-2-phenylbenzoyl]methionine | 0.32 mmol, 143 mg | N1=CC(=CC=C1)OCC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1)C1=CC=CC=C1 | C24H24N2O4S
reactant | carbonyldiimidazole | 0.84 mmol, 136 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulfonamide | 0.82 mmol, 78 mg | CS(=O)(=O)N | CH5NO2S
reactant | DBU | 0.80 mmol, 0.12 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [4-(3-pyridyloxymethyl)-2-phenylbenzoyl]methionine methylsulfonyl amide | CS(=O)(=O)NC([C@@H](NC(C1=C(C=C(C=C1)COC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C25H27N3O5S2
